US04921851
In 10 ml of dimethylformamide is suspended 0.976 g of S-cyanomethylisothiourea hydrochloride prepared according to the method described in Japanese Published Unexamined Patent Application No. 50-154279. Under cooling at -35° C. and stirring, 2.73 g of 28% (w/w) sodium methylate solution is added dropwise, after which the mixture is stirred at -40° C. to -35° C. for 10 minutes. Then, a solution of 3.94 g of ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(2-iodoethoxyimino)acetate in 10 ml of dimethylformamide is added at the same temperature. The mixture is stirred at or below -30° C. for 5 minutes and then under ice-cooling for 4 hours. The reaction mixture is poured into 400 ml of ice-water and extracted with ethyl acetate. The extract is washed with aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. To the solid residue is added a mixture of ether-petroleum ether (1:1) and the mixture is filtered to give 3.18 g of ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(2-cyanomethylthioethoxyimino)acetate as light yellow crystals.

reactant | S-cyanomethylisothiourea hydrochloride | 0.976 g | Cl.C(#N)CSC(N)=N
reactant | sodium methylate | C[O-].[Na+]
reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(2-iodoethoxyimino)acetate | 3.94 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCI | C28H26IN3O3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(2-cyanomethylthioethoxyimino)acetate | 3.18 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCSCC#N | C30H28N4O3S2
